US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(3R/S)-3-fluoropyrrolidin-1-ylcarbonyl]-3-methylbenzamide
Prepared analogously to Example 1g from rac.-4-(3-fluoropyrrolidin-1-ylcarbonyl)-3-methylbenzoic acid, TBTU, diisopropylethylamine and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 49%; Rf value: 0.30 (silica gel: dichloromethane/ethanol=9:1); C22H22ClFN4O2 (428.893); mass spectrum: (M+H)+=429/431 (chlorine isotope).

reactant | rac.-4-(3-fluoropyrrolidin-1-ylcarbonyl)-3-methylbenzoic acid | FC1CN(CC1)C(=O)C1=C(C=C(C(=O)O)C=C1)C | C13H14FNO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-[(3R/S)-3-fluoropyrrolidin-1-ylcarbonyl]-3-methylbenzamide | Yield: 49% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)C(=O)N2CC(CC2)F)C)=O)C=C1 | C22H22ClFN4O2
